US07429665B2
4-(2-methyl-5-(pyridin-4-yl)-1H-imidazol-1-yl)phenol
A solution of boron tribromide (1 M in methylene chloride, 2.1 mL, 2.1 mmol) was added dropwise to a solution of Preparation 82 (4-(1-(4-methoxyphenyl)-2-methyl-1H-imidazol-5-yl)pyridine, 220 mg, 0.83 mmol) in methylene chloride (5 mL) at 0° C. After stirring at 23° C. for 24 h, aqueous sodium hydroxide solution (1 N, 15 mL) was added and the mixture was stirred at 23° C. for 1 h. The pH was adjusted to 7 by the addition of aqueous hydrochloric acid (1N), the mixture was extracted with methylene chloride/isopropanol (4:1, 3×30 mL), the combined organic layers were dried (MgSO4), were filtered, and were concentrated in vacuo. The residue was purified by silica gel chromatography using chloroform-methanol (20:1 to 10:1) to afford 150 mg (72% yield ) of the title compound; diagnostic 13C NMR signals (100 MHz, CDCl3) δ 159.337, 149.548, 149.302, 138.302, 131.131, 128.760, 128.170, 127.310, 121.163, 117.237, 13.881; MS (AP/Cl) 252.4 (M+H)+.

reactant | boron tribromide | 2.1 mmol, 1 M, 2.1 mL | B(Br)(Br)Br | BBr3
reactant | 4-(1-(4-methoxyphenyl)-2-methyl-1H-imidazol-5-yl)pyridine | COC1=CC=C(C=C1)N1C(=NC=C1C1=CC=NC=C1)C | C16H15N3O
reactant | sodium hydroxide | 1 N, 15 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-methyl-5-(pyridin-4-yl)-1H-imidazol-1-yl)phenol | 150 mg, 72% yield | CC=1N(C(=CN1)C1=CC=NC=C1)C1=CC=C(C=C1)O | C15H13N3O
